US04753940
1.1. 1,3-Dimethyl-5-[4-(2-isopropyl-6-methylpyrimidin-4-yloxy)phenylcarbamoyl]barbituric acid
3.0 g (0.013 mole) of 1,3-dimethyl-5-ethoxycarbonylbarbituric acid and 3.2 g (0.013 mole) of 4-(2-isopropyl-6-methylpyrimidin-4-yloxy)aniline are suspended in 30 ml of toluene and heated for 18 hours at reflux temperature in an inert gas atmosphere (nitrogen). After cooling, the precipitate is isolated by filtration, washed with alcohol and dried.

reactant | 1,3-dimethyl-5-ethoxycarbonylbarbituric acid | 0.013 mole, 3.0 g | CN1C(=O)N(C(=O)C(C1=O)C(=O)OCC)C | C9H12N2O5
reactant | 4-(2-isopropyl-6-methylpyrimidin-4-yloxy)aniline | 0.013 mole, 3.2 g | C(C)(C)C1=NC(=CC(=N1)OC1=CC=C(N)C=C1)C | C14H17N3O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-Dimethyl-5-[4-(2-isopropyl-6-methylpyrimidin-4-yloxy)phenylcarbamoyl]barbituric acid | CN1C(=O)N(C(=O)C(C1=O)C(NC1=CC=C(C=C1)OC1=NC(=NC(=C1)C)C(C)C)=O)C | C21H23N5O5
